US08426448B2
Combine N-[1-(6-bromo-pyridin-2-yl)-1-methyl-ethyl]-acetamide (3.3 g, 12.8 mmol) with 5N HCl (200 mL) and reflux overnight. Cool, add ice and neutralize with 1:1 ice: 50% NaOH until the mixture turns cloudy. Extract with dichloromethane, dry (Na2SO4), and evaporate to give 1-(6-bromo-pyridin-2-yl)-1-methyl-ethylamine (2.24 g, 81%). MS (m/z) 215 and 217 (M+H)+.

reactant | N-[1-(6-bromo-pyridin-2-yl)-1-methyl-ethyl]-acetamide | 12.8 mmol, 3.3 g | BrC1=CC=CC(=N1)C(C)(C)NC(C)=O | C10H13BrN2O
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 5N, 200 mL | Cl | ClH
product | 1-(6-bromo-pyridin-2-yl)-1-methyl-ethylamine | 2.24 g, 81% | BrC1=CC=CC(=N1)C(C)(C)N | C8H11BrN2
